US08530648B2
q) 1-((1H-indol-4-yl)methyl)-9-(benzo[d]oxazol-2-yl)-1,9-diazaspiro[5.5]undecan-2-one
Cs2CO3 (430 mg, 1.32 mmol) was added to a stirred solution of 9-(benzo[d]oxazol-2-yl)-1-((1-tosyl-1H-indol-4-yl)methyl)-1,9-diazaspiro[5.5]undecan-2-one (250 mg, 0.44 mmol) in methanol (10 mL) and stirring was continued for 18 h at 78° C. The reaction mixture was concentrated, water was added to the residue and extracted with ethyl acetate (2×50 mL), dried over anhydrous Na2SO4, filtered and concentrated. The crude product was purified by reversed phase HPLC (column Zorbax eclipseXDB C18 21.2×150 mm 5 ♀m, flow 20 mL/min, eluent: gradient water/acetonitrile) to yield the title compound (126 mg, 69%). [1H NMR (400 MHz, CDCl3) ♀ ppm 8.30 (br s, 1H), 7.36-6.96 (m, 7H), 6.78 (d, 1H), 6.46 (m, 1H), 4.95 (s, 2H), 4.16 (dd, 2H), 3.18 (t, 2H), 2.65 (t, 2H), 2.20-2.05 (m, 4H), 1.95-1.88 (m, 2H), 1.75-1.61 (m, 2H); LCMS RtE=1.32 min, [M+H]+=415.1].

reactant | Cs2CO3 | 1.32 mmol, 430 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 9-(benzo[d]oxazol-2-yl)-1-((1-tosyl-1H-indol-4-yl)methyl)-1,9-diazaspiro[5.5]undecan-2-one | 0.44 mmol, 250 mg | O1C(=NC2=C1C=CC=C2)N2CCC1(CCCC(N1CC1=C3C=CN(C3=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1)=O)CC2 | C32H32N4O4S
solvent | methanol | 10 mL | CO | CH4O
product | 1-((1H-indol-4-yl)methyl)-9-(benzo[d]oxazol-2-yl)-1,9-diazaspiro[5.5]undecan-2-one | 126 mg, 69% | N1C=CC2=C(C=CC=C12)CN1C(CCCC12CCN(CC2)C=2OC1=C(N2)C=CC=C1)=O | C25H26N4O2
